US07625931B2
To a solution of 4-(2-Pyridin-4-yl-imidazol-1-yl)-phenylamine (100 mg, 0.424 mmol) in DCM (4.0 mL) and DMF (1.0 mL) is added 1-fluoro-2-isocyanato-4-trifluoromethyl-benzene (91 mg, 0.445 mmol, 1.05 equiv) and allowed to stir for 2 h at RT. All solvent is then removed under reduced pressure and the resulting solid was purified by column chromatography (5% MeOH:95% DCM) to afford 1-(2-Fluoro-5-trifluoromethyl-phenyl)-3-[4-(2-pyridin-4-yl-imidazol-1-yl)-phenyl]-urea as an off-white solid.

reactant | 4-(2-Pyridin-4-yl-imidazol-1-yl)-phenylamine | 0.424 mmol, 100 mg | N1=CC=C(C=C1)C=1N(C=CN1)C1=CC=C(C=C1)N | C14H12N4
reactant | 1-fluoro-2-isocyanato-4-trifluoromethyl-benzene | 0.445 mmol, 91 mg, 1.05 equiv | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
solvent | DCM | 4.0 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 1-(2-Fluoro-5-trifluoromethyl-phenyl)-3-[4-(2-pyridin-4-yl-imidazol-1-yl)-phenyl]-urea | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC=C(C=C1)N1C(=NC=C1)C1=CC=NC=C1 | C22H15F4N5O
